US09428490B2
1-Benzhydryl-3-fluoroazetidine-3-carbonitrile (3.5 g, 1.0 eq.) was dissolved in ethanol, and aq. NaOH solution (1N) was added. The reaction mixture was refluxed for 5 h, then was allowed to cool to room temperature, at which temperature, it was acidified with dilute HCl (pH=3) and extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under reduced pressure to obtain 0.5 g of 1-benzhydryl-3-fluoroazetidine-3-carboxylic acid (13% yield). The product was used in the next step without further purification.

reactant | 1-Benzhydryl-3-fluoroazetidine-3-carbonitrile | 3.5 g, 1.0 eq. | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C#N)F | C17H15FN2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | pH=3 | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 1-benzhydryl-3-fluoroazetidine-3-carboxylic acid | 0.5 g, 13% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)O)F | C17H16FNO2
